US07541365B2
4-(4-Chloro-phenyl)-3-ethoxymethyl-1-{3[7-(-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-3-methyl-piperidin-4-ol
To a solution of 4-(4-chloro-phenyl)-3-ethoxymethyl-3-methyl-piperidin-4-ol (0.038 g, 0.13 mmol) in acetonitrile/water (8:2) (1.3 mL) was added K2CO3 (0.075 g, 0.53 mmol) and 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.050 g, 0.13 mmol). The solution was allowed to stir at room temperature for 48 h. The reaction was concentrated and partitioned between EtOAc/H2O, extracted with EtOAc (3×). The organics were collected, dried over MgSO4, filtered and evaporated in vacuo, then purified by Biotage flash chromatography (75% ethyl acetate/25% hexane) to yield the title compound in 65% yield. 1H-NMR (CDCl3): δ 0.81 (s, 3H), 0.98 (t, 3H), 1.58 (s, 6H), 1.84 (s, 1H), 2.31-2.49 (m, 5H), 2.58 (d, 1H), 2.67 (s, 1H), 2.77 (d, 2H), 3.26 (q, 2H), 3.65 (d, 2H), 5.33 (bs, 2H), 6.16 (t, 1H), 6.82 (d, 1H), 7.22-7.36 (m, 7H), 7.45 (d, 1H), 7.60 (d, 1H). ESI-MS m/z: 577 (M+1), retention time 1.58.

reactant | 4-(4-chloro-phenyl)-3-ethoxymethyl-3-methyl-piperidin-4-ol | 0.13 mmol, 0.038 g | ClC1=CC=C(C=C1)C1(C(CNCC1)(C)COCC)O | C15H22ClNO2
reactant | K2CO3 | 0.53 mmol, 0.075 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.13 mmol, 0.050 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | acetonitrile water | 1.3 mL | C(C)#N.O
product | 4-(4-Chloro-phenyl)-3-ethoxymethyl-1-{3[7-(-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-3-methyl-piperidin-4-ol | 65% yield | ClC1=CC=C(C=C1)C1(C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)(C)COCC)O | C34H41ClN2O4
